US07705027B2
6-Ethyl-3-(4-fluoro-phenyl)-7-methoxy-4-oxo-4H-chromene-2-carboxylic acid ethyl ester
Iodomethane (0.10 ml, 12 equiv.) was added to a solution of 6-Ethyl-3-(4-fluoro-phenyl)-7-hydroxy-4-oxo-4H-chromene-2-carboxylic acid ethyl ester (50 mg, 0.14 mmol) and potassium carbonate (58 mg, 3.0 equiv.) in acetone and the mixture refluxed overnight. The volatiles were then evaporated in vacuo and the residue partitioned between water (15 ml) and EtOAc (15 ml). The organic layer was washed with brine, dried over MgSO4 and evaporated to dryness in vacuo to give a white crystalline product (45 mg, 87% yield)

reactant | Iodomethane | 0.10 ml, 12 equiv. | IC | CH3I
reactant | 6-Ethyl-3-(4-fluoro-phenyl)-7-hydroxy-4-oxo-4H-chromene-2-carboxylic acid ethyl ester | 0.14 mmol, 50 mg | C(C)OC(=O)C=1OC2=CC(=C(C=C2C(C1C1=CC=C(C=C1)F)=O)CC)O | C20H17FO5
reactant | potassium carbonate | 58 mg, 3.0 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 6-Ethyl-3-(4-fluoro-phenyl)-7-methoxy-4-oxo-4H-chromene-2-carboxylic acid ethyl ester | 45 mg, 87% yield | C(C)OC(=O)C=1OC2=CC(=C(C=C2C(C1C1=CC=C(C=C1)F)=O)CC)OC | C21H19FO5
